US08975254B2
a) (R)-3-acetyl-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)-propyl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 3-acetyl-1H-pyrazole-5-carboxylic acid (0.229 g, 1.486 mmol) and (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile (0.380 g, 1.449 mmol). The product was purified by flash chromatography. Yield 64.4%. 1H-NMR (400 MHz; CDCl3): δ 1.62 (d, 3H), 2.55 (s, 3H), 3.74-3.83 (m, 1H), 3.90-3.98 (m, 1H), 4.60-4.69 (m, 1H), 6.59 (d, 1H), 7.31 (bs, 1H), 7.51 (d, 1H), 7.53 (s, 1H), 7.55 (s, 1H), 7.60 (bs, 1H), 10.97 (bs, 1H).

reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 1.486 mmol, 0.229 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | (R)-4-(1-(1-aminopropan-2-yl)-1H-pyrazol-3-yl)-2,6-difluorobenzonitrile | 1.449 mmol, 0.380 g | NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C#N)C(=C1)F)F | C13H12F2N4
product | (R)-3-acetyl-N-(2-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)-propyl)-1H-pyrazole-5-carboxamide | Yield 64.4% | C(C)(=O)C1=NNC(=C1)C(=O)NC[C@@H](C)N1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F | C19H16F2N6O2
